US07112606B2
Step A. N-Ethoxyethyl-2-trifluoroacetylpyrrole
To a suspension of 268 mg (6.70 mmol) of NaH (60% dispersion in oil) in 20 mL DMF at 0° C. was added 1.01 g (6.19 mmol) of 2-(trifluoroacteyl)pyrrole and the mixture was stirred at 0° C. for 1 h. After this time, 765 μL (6.51 mmol) of 2-bromoethyl ethyl ether was added and the mixture was warmed to 60° C. and stirred for 16 h. After this time, the reaction mixture was allowed to cool to room temperature, quenched by the addition of a saturated aqueous solution of ammonium chloride, and extracted with EtOAc. The organic layer was washed with water and brine, dried over Na2SO4, filtered and the filtrate was concentrated. The residue was purified by chromatography on silica gel (pure hexanes grading to hexanes:EtOAc, 97:3) to give the title compound.

reactant | NaH | 6.70 mmol, 268 mg | [H-].[Na+]
reactant | 2-(trifluoroacteyl)pyrrole | 6.19 mmol, 1.01 g | FC(C(=O)C=1NC=CC1)(F)F | C6H4F3NO
reactant | 2-bromoethyl ethyl ether | 6.51 mmol, 765 μL | C(C)OCCBr | C4H9BrO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-Ethoxyethyl-2-trifluoroacetylpyrrole | C(C)OCCN1C(=CC=C1)C(C(F)(F)F)=O | C10H12F3NO2
